US07713994B2
2-Hydroxymethyl-5-furan-3-yl-pyran-4-one
A mixture of trifluoro-methanesulfonic acid 6-(tert-butyl-dimethyl-silanyloxymethyl)-4-oxo-4H-pyran-3-yl ester1 (6.94 g, 17.8 mmole), furan-3-boronic acid (4.0 g, 35.7 mmole), tetrakistriphenylphosphine palladium (1.024 g, 0.87 mmole), cesium carbonate (16.32 g, 50.1 mmole) and potassium bromide (10.63 g, 89.3 mmole) in (250 mL) dioxane (250 mL) is heated to 60° C. and stirred overnight. The reaction mixture is cooled to room temperature and diluted with saturated aqueous ammonium chloride and extracted with ethyl acetate. The combined ethyl acetate layers were washed with water, dried over sodium sulfate, filtered, diluted with an equal volume of hexanes and passed thru a short column of magnesol and silica gel eluting with 1:1 hexanes/ethyl acetate. The product is eluted with 2:1 ethyl acetate/hexanes, the solvents were evaporated, triturated with 1:1 hexanes/ethyl acetate, filtered, washed with the same solvent and air dried to give an off white solid, 2.58 g; MS (ES+): m/z 307.3(M+H). This solid is dissolved in tetrahydrofuran and tetrabutylammonium fluoride solution in tetrahydrofuran (40.0 mL, 40.0 mmole) is added and the mixture stirred at room temperature overnight. The reaction mixture is diluted with water and extracted with ethyl acetate. The combined ethyl acetate layers were combined and washed with water, dried over sodium sulfate, filtered, diluted with an equal volume of hexanes and passed thru a short column of magnesol and silica gel eluting with 1:1 hexanes/ethyl acetate. The product is eluted with 2:1 ethyl acetate/hexanes, the solvents were evaporated, triturated with 1:1 hexanes/ethyl acetate, filtered, washed with the same solvent and air dried to give an off white solid, 2.06 g, (37%); MS (ES+): m/z 193.2(M+H). (T. Kamino, et. al.; Tet. Lett. 44 (2003) 7349)

reactant | furan-3-boronic acid | 35.7 mmole, 4.0 g | O1C=C(C=C1)B(O)O | C4H5BO3
reactant | cesium carbonate | 50.1 mmole, 16.32 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | potassium bromide | 89.3 mmole, 10.63 g | [Br-].[K+]
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | dioxane | 250 mL | O1CCOCC1 | C4H8O2
solvent | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | tetrahydrofuran | 40.0 mmole, 40.0 mL | O1CCCC1 | C4H8O
product | 2-Hydroxymethyl-5-furan-3-yl-pyran-4-one | OCC=1OC=C(C(C1)=O)C1=COC=C1 | C10H8O4
